US04496720
15 ml (72 mmoles) of hexamethyldisilazane were added to a refluxing mixture of 9.9 g (75 mmoles) of 5-mercapto-2-methyl-1,3,4-thiadiazole, 27 mg (0.15 mmole) of saccharin, 50 ml of acetonitrile and 20 ml of hexamethylphosphoric triamide and after refluxing for 4.5 hours, the calculated amount of ammonia had been evolved. Refluxing was continued for 30 minutes and the mixture containing 5-trimethylsilylthio-2-methyl-1,3,4-thiadiazole was cooled to room temperature and 9.9 ml (80 mmoles) of benzyl bromide were added thereto which raised the temperature to about 50° C. All starting material was consumed within 5 minutes. The acetonitrile was removed by evaporation and 100 ml of ethyl acetate were added to the residue. The solution was poured into 250 ml of water and the aqueous layer was extracted three times with 30 ml of ethyl acetate. The combined organic extracts were washed with a 10% sodium chloride solution, dried, filtered and evaporated to dryness. The solid residue was washed with hexane containing some diethyl ether to obtain 15.91 g (96.4% yield) of 5-benzylthio-2-methyl-1,3,4-thiadiazole melting at 60°-63° C. Crystallization from a mixture of ethyl acetate and petroleum ether (boiling range 40°-60° C.) provided 14.27 g of the pure substance melting at 62.5°-63.5° C.

reactant | hexamethyldisilazane | 72 mmoles, 15 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 75 mmoles, 9.9 g | SC1=NN=C(S1)C | C3H4N2S2
reactant | ammonia | N | H3N
reactant | 5-trimethylsilylthio-2-methyl-1,3,4-thiadiazole | C[Si](SC1=NN=C(S1)C)(C)C | C6H12N2S2Si
reactant | benzyl bromide | 80 mmoles, 9.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | saccharin | 0.15 mmole, 27 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-benzylthio-2-methyl-1,3,4-thiadiazole | 15.91 g, 96.4% yield | C(C1=CC=CC=C1)SC1=NN=C(S1)C | C10H10N2S2
